US07214673B2
2-Nitro-Benzo[b]thiophene-3-carbonitrile
Combine 3-bromo-2-nitro-benzo[b]thiophene (33.0 g, 127.4 mmol), copper cyanide (17.1 g, 191.1 mmol) in DMF(150 mL), heat to 120 ° C. for three hours. The reaction cool to RT, pour on ice, then filter. The filter cake wash with dichloromethane. The organic layer separate and dry over MgSO4, evaporation to give a DMF solution. Add water (400 mL) and the yellow solid precipitate out. After filtration, obtain a brownish solid (23.5 g, 90%). Mass spectrum (m/e): 205 (M+1); 1HNMR (300 MHz, DMSO-d6) δ: 7.78 (m, 2H), 8.04 (d, 1H), 8.29 (d, 1H). 13CNMR(75 MHz, DMSO-d6)δppm: 105.9, 112.1, 125.0, 125.2, 128.8, 131.2, 135.9, 137.8, 158.0.

reactant | 3-bromo-2-nitro-benzo[b]thiophene | 127.4 mmol, 33.0 g | BrC=1C2=C(SC1[N+](=O)[O-])C=CC=C2 | C8H4BrNO2S
reactant | copper cyanide | 191.1 mmol, 17.1 g | [Cu](C#N)C#N
reactant | water | 400 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-Nitro-Benzo[b]thiophene-3-carbonitrile | 23.5 g, 90% | [N+](=O)([O-])C1=C(C2=C(S1)C=CC=C2)C#N | C9H4N2O2S
